*Circuito 1
 R1 1 2 1021.830547 
 R2 2 3 2005.192951 
 R3 2 5 3017.358496 
 R4 0 5 4151.360042 
 R5 5 6 3044.174022 
 R6 0 7 2021.969849 
 R7 7 8 1007.843343 
 C 6 8 0.000001 
 V 1 0 DC 5.113399 
 H 5 8 5.383661 
 G 3 6 4.538148